US05232917
c. 3α-hydroxy-3β-methyl-5α-pregnan-20-one
A solution of 3α-hydroxy-3β-methyl-20,20-ethylenedioxy-5α-pregnane and p-toluene sulfonic acid (catalytic) in wet acetone was heated at reflux overnight. The reaction was concentrated in vacuo and taken up in chloroform. The organic phase was washed with sodium bicarbonate, dried over magnesium sulfate, concentrated, and recrystallized from methanol to give the titled compound.

reactant | 3α-hydroxy-3β-methyl-20,20-ethylenedioxy-5α-pregnane | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C5(C)OCCO5)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C24H40O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | CC(=O)C | C3H6O
product | 3α-hydroxy-3β-methyl-5α-pregnan-20-one | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C22H36O2
